Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
coronary arttery disease
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass graft x5 (left internal mammary 
artery to the ramus artery and saphenous vein grafts to left 
anterior descending artery, diagonal, obtuse marginal, posterior 
descending)

 
History of Present Illness:
___ year old ___ speaking gentleman  was found in atrial 
fibrillation fibrillation following a colonoscopy. He was 
admitted to ___ and was found to have an elevated 
troponin. A cardiac catheterization was perfomed which showed 
severe three vessel disease. Given the severity of his disease, 
he was transferred to the ___ for surgical management. 
 
Past Medical History:
insulin dependent diabetes mellitus
Hypercholesterolemia 
Diabetic retinopathy

 
Social History:
___
Family History:
Father MI < ___ [n]died resp illness.          
Mother < ___ [n]MI age ___

 
Physical Exam:
Pulse: Resp:16  O2 sat:
B/P  Right:122/60    Left:122/64
Height:     Weight:145

___ in NAD
Skin: Dry [] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR []  Irregular [x]  Murmur [n] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema [n] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2   Left:2
DP           Right: 2  Left:2
___           Right:2   Left:2
Radial       Right:2   Left:2

Carotid Bruit        Right: N   Left:N

 
Pertinent Results:
___ - ECHO
PRE BYPASS The left atrium is dilated. No spontaneous echo 
contrast or thrombus is seen in the body of the left atrium/left 
atrial appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. The left ventricular cavity size is normal. Regional 
left ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. There are simple 
atheroma in the aortic arch. There are simple atheroma in the 
descending thoracic aorta. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. There is no 
pericardial effusion. Dr. ___ was notified in person 
of the results in the operating room at the time of the study.

POST BYPASS The patient is atrially paced. There is normal 
biventricular systolic function. The mitral regurgitation is 
worsened - now moderate, central regurgitation. The thoracic 
aorta is intact after decannulation  

___ 04:20AM BLOOD WBC-9.1 RBC-2.99* Hgb-9.1* Hct-26.1* 
MCV-87 MCH-30.5 MCHC-35.0 RDW-13.5 Plt ___
___ 07:30PM BLOOD WBC-8.4 RBC-4.58* Hgb-14.0 Hct-39.5* 
MCV-86 MCH-30.4 MCHC-35.3* RDW-12.2 Plt ___
___ 05:39AM BLOOD ___
___ 04:20AM BLOOD ___ 05:22AM BLOOD ___
___ 05:25AM BLOOD ___
___ 01:48AM BLOOD ___ PTT-26.0 ___
___ 02:53AM BLOOD ___ PTT-27.1 ___
___ 12:40PM BLOOD ___ PTT-26.6 ___
___ 05:39AM BLOOD Na-132* K-4.3 Cl-98
___ 05:22AM BLOOD Glucose-59* UreaN-26* Creat-1.0 Na-139 
K-3.9 Cl-103 HCO3-33* AnGap-7*
___ 07:30PM BLOOD Glucose-225* UreaN-14 Creat-0.9 Na-138 
K-4.0 Cl-104 HCO3-24 AnGap-14
___ 07:30PM BLOOD ALT-23 AST-24 LD(LDH)-199 AlkPhos-85 
TotBili-0.3
 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ for surgical 
management of his coronary artery disease. He was worked-up in 
the usual preoperative manner. A radial duplex ultrasound was 
obtained as a radial artery graft was desired given his younger 
age. This revealed significant califications of the bilateral 
radial arteries and thus the decision was made not to use a 
radial artery for conduit.

 On ___, Mr. ___ was taken to the Operating Room where he 
underwent coronary artery bypass grafting to five vessels. As 
the greater saphenous vein was very small in the left leg, an 
extra length was harvested from his right thigh. Please see 
operative note for details. Postoperatively he was taken to the 
Intensive Care Unit for monitoring. Over the next several hours, 
he awoke neurologically intact and was extubated. He was 
transfused a unit of red blood cells for postoperative anemia. 
He remained in atrial fibrillation which was treated with 
Amiodarone. On postoperative day two, he was transferred to the 
step down unit for further recovery. He was gently diuresed 
towards his preoperative weight. The Physical Therapy service 
was consulted for assistance with his postoperative strength and 
mobility.  

Anti-coagulation was initiated with Coumadin for atrial 
fibrillation.  He was extremely sensitive to dosing and his INR 
rose to 5.2, nec3essitating an extra hospital day as the 
Coumadin was held and the INR fell to 3.  Arrangements were made 
for his anticoagulation to be managed by his primary care 
physician.  Follwoup appointments were given and medications and 
restrictions discussed.

He had converted to sinus rhythm at discharge and Amiodarone 
will be tapered over the next 4 weeks.

 
Medications on Admission:
Lantus 15units daily,metformin 850mg BID,Glipizide 20mg 
daily,ASA 325mg daily,Lipitor 40mg daily, prn Naproxen

 
Discharge Medications:
1. Outpatient Lab Work
serial ___
Coumadin for AFib
Goal INR ___
First draw day after discharge
Then please do INR checks ___, and ___ for 2 
weeks then decrease as directed by Dr. ___ to phone ___ fax ___
2. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain for 4 weeks.
Disp:*50 Tablet(s)* Refills:*0*
3. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*90 Tablet(s)* Refills:*2*
4. metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
5. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).
Disp:*30 Capsule, Ext Release 24 hr(s)* Refills:*2*
7. isosorbide dinitrate 10 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*90 Tablet(s)* Refills:*2*
8. amiodarone 200 mg Tablet Sig: as directed Tablet PO BID (2 
times a day): 400mg (2 tablets) twice daily for two weeks, then 
200mg (one tablet) twiced daily for two weeks , then 200mg(one 
tablet) daily until instructed to discontinue.
Disp:*100 Tablet(s)* Refills:*2*
9. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
10. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H 
(every 4 hours) as needed for fever, pain.  
11. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Coronary artery disease
IDDM
Hypercholesterolemia
Diabetic retinopathy

 
Discharge Condition:
Alert and oriented x3, nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage. 
Edema: trace

 
Discharge Instructions:
1) Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage.
2) Please NO lotions, cream, powder, or ointments to incisions. 
3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
4) No driving for approximately one month and while taking 
narcotics. Driving will be discussed at follow up appointment 
with surgeon when you will likely be cleared to drive. 
5) No lifting more than 10 pounds for 10 weeks
6) Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___